US08168658B2
Step B: [4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)phenyl](pyrrolidin-1-yl)acetic acid.
Glyoxilic acid monohydrate (0.042 g, 0.456 mmol) was suspended in DCM (2.1 mL)/HFIP (0.2 mL) and pyrrolidine (0.038 mL, 0.456 mmol) and [4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]boronic acid (0.2 g, 0.456 mmol) were added. The reaction was stirred at room temperature overnight. The mixture was transferred to a microwave vial and heated to 120° C. for 30 minutes in the microwave. The solvent was removed in vacuo and the residue triturated in methanol to give the desired product as a pale yellow powder. 1H NMR (DMSO-d6, 600 MHz) δ 9.95 (s, 1H), 8.74 (br s, 1H), 7.95 (d, J=8.4 Hz, 2H), 7.79 (d, J=1.8 Hz, 1H), 7.60 (d, J=8.4 Hz, 2H), 7.49 (m, 2H), 7.43 (d, J=2.4 HZ, 1H), 7.11 (dd, J=5.4 and 3.6 Hz, 1H), 4.33 (s, 1H), 3.06 (m, 2H), 2.79 (m, 2H), 1.84 (m, 4H), 1.43 (s, 9H). MS: cal'd 522 (MH+), exp 522 (MH+).

reactant | Glyoxilic acid monohydrate | 0.456 mmol, 0.042 g | O.C(C=O)(=O)O
reactant | HFIP | 0.2 mL | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
reactant | pyrrolidine | 0.456 mmol, 0.038 mL | N1CCCC1 | C4H9N
reactant | [4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]boronic acid | 0.456 mmol, 0.2 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)B(O)O | C22H23BN2O5S
solvent | DCM | 2.1 mL | C(Cl)Cl | CH2Cl2
product | [4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)phenyl](pyrrolidin-1-yl)acetic acid | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)C(C(=O)O)N1CCCC1 | C28H31N3O5S
